US04882326
0.5 g of O-[2-(1-benzyloxycarbonyl-4-piperidyl)ethyl]-N-(tert-butoxycarbonyl)-L-serine, in place of O-[2-(1-benzyloxycarbonyl-4-piperidyl)ethyl]-N-(tert-butoxycarbonyl)-D-serine, is subjected to the same reaction procedure and purification treatment as in Reference Example 7 to give 380 mg of 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethoxy]-2(S)-hydroxypropionic acid as an oily substance.

reactant | O-[2-(1-benzyloxycarbonyl-4-piperidyl)ethyl]-N-(tert-butoxycarbonyl)-L-serine | 0.5 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCOC[C@H](NC(=O)OC(C)(C)C)C(=O)O | C23H34N2O7
reactant | O-[2-(1-benzyloxycarbonyl-4-piperidyl)ethyl]-N-(tert-butoxycarbonyl)-D-serine | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCOC[C@@H](NC(=O)OC(C)(C)C)C(=O)O | C23H34N2O7
product | 3-[2-(1-benzyloxycarbonyl-4-piperidyl)ethoxy]-2(S)-hydroxypropionic acid | 380 mg | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)CCOC[C@@H](C(=O)O)O | C18H25NO6
